Name:  ___                         Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
ERCP

 
History of Present Illness:
___ male past medical history significant for gastritis,
"enlarged heart", hypertension presents with abdominal pain. The
patient reports that he has been having epigastric and left 
upper
quadrant abdominal pain for the past 2 weeks, worse after eating
foods. He first noticed such pain 2 months ago but began
cresendoing about 2 weeks ago.  He also reports 1 day of pain in
his right lower quadrant. He endorses associated nausea. Denies
any fevers or chills. Denies any vomiting area denies any back
pain. Denies any shortness of breath. He reports that when his
left upper quadrant pain is worse, he has pain that goes up into
his chest. This chest pain comes and goes and is not associated
with exertion. Denies any family history of cardiac disease or
sudden death he is aware of. Denies any dysuria. Denies any
hematochezia, diarrhea. Patient is followed by a Cardiologist at
___ (he does not know the name) for his heart condition.
Patient denies any diaphoresis or exertional chest pain
throughout. He had 2 negative troponins in the ED. He denies
syncope, dizziness, light-headedness. 
 
 
Past Medical History:
HOCM
HTN
 
Social History:
___
Family History:
No history of Sudden cardiac death or early death
he is aware of. No history of heart disease. 
 
Physical Exam:
98.2
PO 127 / 69 67 18 94 Ra 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities 
PSYCH: pleasant, appropriate affect
NEUROLOGIC:
MENTATION: alert and cooperative. 
 
Pertinent Results:
___ 06:30AM BLOOD WBC-7.4 RBC-4.79 Hgb-14.7 Hct-40.9 MCV-85 
MCH-30.7 MCHC-35.9 RDW-11.4 RDWSD-34.9* Plt ___
___ 06:30AM BLOOD Glucose-89 UreaN-11 Creat-0.8 Na-141 
K-3.6 Cl-101 HCO3-24 AnGap-16
___ 06:30AM BLOOD ALT-38 AST-22 AlkPhos-72 TotBili-0.9
___ 05:31AM BLOOD Lipase-33
___ 10:40PM BLOOD cTropnT-0.01
___ 12:41PM BLOOD Lactate-1.2

___ Gastroenterology ERCP 
Successful ERCP with sphincterotomy, sphincteroplasty and 
extraction of one large stone 

___ Imaging MRCP (MR ABD ___ 
EXAMINATION:  MRCP of the abdomen 
  
INDICATION:  ___ year old man with 1.2cm distal CBD stone but 
normal LFT and 
now resolved abd pain// GI recommends MRCP to eval ?passed stone 
vs persistent 
choledocholithiasis 
  
TECHNIQUE:  T1- and T2-weighted multiplanar images of the 
abdomen were 
acquired in a 1.5 T magnet. 
Intravenous contrast: 7 mL Gadavist. 
Oral contrast:  1 cc of Gadavist mixed with 50 cc of water was 
administered 
for oral contrast. 
  
COMPARISON:  CT of the abdomen/pelvis from ___. 
  
FINDINGS:  
  
Lower Thorax: The bilateral lung bases are grossly clear.  There 
is no pleural 
effusion. 
  
Liver: The liver is normal in size and smooth in contour.  There 
is no 
evidence of hepatic steatosis or iron deposition.  Three T2 
hyperintense, 
enhancing lesions measuring 5 mm in segment VIII/hepatic dome 
(series 4, image 
8 and series 1201, image 28), 5 mm in segment ___ (series 4, 
image 11 and 
series 1201, image 37), and 13 mm in segment VIII (series 4, 
image 13 and 
series 1201, image 41) are compatible with hemangiomas. 
  
Biliary: The gallbladder is within normal limits.  No gallstones 
are 
identified.  There is mild intrahepatic biliary ductal 
dilatation in the right 
hepatic lobe, and mild extrahepatic biliary ductal dilatation 
with the common 
bile duct measuring up to 9 mm.  There is an 11 mm stone or 
conglomerate of 
stones in the distal common bile duct. 
  
Pancreas: The pancreas is normal in bulk and signal intensity. 
  
Spleen: The spleen is normal in size, measuring 12.1 cm in 
length, and signal 
intensity. 
  
Adrenal Glands: The right and left adrenal glands are normal in 
size and 
shape. 
  
Kidneys: The kidneys are normal and symmetric in size, and 
demonstrate normal 
nephrograms.  There is no focal renal lesion or hydronephrosis. 
  
Gastrointestinal Tract: Visualized small and large bowel loops 
are normal in 
caliber. 
  
Lymph Nodes: There is no mesenteric or retroperitoneal 
lymphadenopathy. 
  
Vasculature: The abdominal aorta, celiac artery, SMA and 
bilateral renal 
arteries are normal in caliber and patent.  Hepatic arterial 
anatomy is 
conventional. 
  
Osseous and Soft Tissue Structures: There is no aggressive 
osseous lesion.  
Soft tissue structures of the abdominal wall are within normal 
limits. 
  
IMPRESSION:  
  
1. Mild intrahepatic biliary ductal dilatation in the right 
hepatic lobe, and 
mild extrahepatic biliary ductal dilatation with the common bile 
duct 
measuring up to 9 mm.  Choledocholithiasis with a 11 mm stone or 
conglomerate 
of stones in the distal common bile duct. 
2.  Small hepatic hemangiomas. 

___ Cardiovascular ECHO 
The left atrial volume index is normal. No atrial septal defect 
is seen by 2D or color Doppler. The estimated right atrial 
pressure is ___ mmHg. There is asymmetric left ventricular 
hypertrophy (septal hypertrophy most prominent with apex also 
relatively hypertrophic compred to inferolateral wall). The left 
ventricular cavity size is normal. Regional left ventricular 
wall motion is normal. Overall left ventricular systolic 
function is normal (LVEF>70%). These findings are consistent 
with hypertrophic non-obstructive cardiomyopathy (HCM). Right 
ventricular chamber size and free wall motion are normal. The 
aortic root is mildly dilated at the sinus level. The aortic 
valve leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. The 
mitral valve appears structurally normal with trivial mitral 
regurgitation. There is no mitral valve prolapse. There is mild 
systolic anterior motion of the mitral valve leaflets. The 
estimated pulmonary artery systolic pressure is normal. There is 
no pericardial effusion. 

 IMPRESSION: Marked assymmetric septal hypertrophy with mild 
systolic anterior motion of the mitral valve leaflets without 
LVOT obstruction at rest. Findings are consistent with 
hypertrophic cardiomyopathy. Findings may be further evaluated 
with cardiac MRI if clinically indicated. 
 
Brief Hospital Course:
___ year old male with history of HCM and HTN who presented with
abdominal pain.

#Abdominal pain
#Choledocholithiasis
-CT A/P showed 1.2-cm obstructing distal CBD stone with mild
central intrahepatic biliary dilation.  Normal appearing
gallbladder without evidence of calcified 
gallstones. 
-MRCP ___ showed mild intrahepatic biliary ductal dilatation in
the right hepatic lobe, and mild extrahepatic biliary ductal
dilatation with the common bile duct measuring up to 9 mm. 
Choledocholithiasis with a 11 mm stone or conglomerate 
of stones in the distal common bile duct.  
-LFTs were all normal, lipase was normal during his stay.
-ERCP was performed on ___ and was successful ERCP with 
sphincterotomy, sphincteroplasty and extraction of one large 
stone.
-ACS was consulted for CCY, but patient prefers to have this 
done as outpatient.

#HCM
-Patient was seen by cardiology.
-We attempted to obtain ___ records where he follows for HOCM, 
all they sent us after repeated calls was a cardiac MRI report.
-TTE performed here confirmed the HOCM.
-He had no clinical evidence of active ischemia or hemodynamic 
problems related to HOCM.
-He will need to continue to follow at ___ cardiology.

Greater than 30 minutes was spent on discharge planning and 
coordination.
======
TRANSITIONAL ISSUES:
-Needs to follow up with ACS within 1 - 2 weeks
-PCP appointment scheduled
-___ to continue to follow up at ___ cardiology routinely
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 
2. Lisinopril 10 mg PO DAILY 

 
Discharge Medications:
1.  Lisinopril 10 mg PO DAILY  
2.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Choledocholithiasis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Instructions: Dear Mr. ___, 

It was a pleasure to be a part of your care team at ___ 
___.

====================================
Why did you come to the hospital? 
====================================

-You had abdominal pain.

====================================
What happened at the hospital? 
====================================

-You were found to have a gallstone stuck in your common bile 
duct based on multiple imaging scans.
-Normally, most people have gallstones and do not have problems. 
Unfortunately, your gallstone had gotten stuck in a bile duct. 
This blockage can cause an infection or liver damage, which is 
why you had to be hospitalized. 
-You underwent a procedure called "ERCP" which removed the stone 
and cleared the blockage.
-The next step is for surgery to remove the entire gallbladder, 
called cholecystectomy, to reduce the risk of this recurring in 
the future.

==================================================
What needs to happen when you leave the hospital? 
==================================================

-Please follow up with your PCP as scheduled.
-We tried to arrange a follow up with the surgery team in 
clinic, but they need to overbook to fit you in their schedule, 
so they should call you within 2 days about your appointment 
date/time. 
-Please continue to follow up with your heart doctor at ___.

It was a pleasure taking care of you during your stay! 

Sincerely, 

Your ___ team  

 
Followup Instructions:
___